US07135492B2
Oxalyl chloride (10.5 g; 0.082 mol) was added dropwise to the stirring solution of N-(4-chloro-2-methylphenyl)-N′-ethylthiourea (17 g; 0.075 mol) in methylene chloride (200 mL). The mixture was heated at reflux for 1 hour then evaporated to dryness. Ethanol (100 mL) was added and the mixture was heated at reflux for 1 hour then evaporated to dryness. The residue was dissolved in ethyl acetate (500 mL) and washed with 2N hydrochloric acid (500 mL) then with water (300 mL). The organic phase was dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was crystallized from ethyl acetate/hexane to give 13.2 g of 1-(4-chloro-2-methylphenyl)-3-ethyl-2-thioxo-4,5-imidazolidinedione, m.p. 161–162° C. Mass spectrum; FAB (M+H)+ m/z 283. 1H-NMR (DMSO-d6; 300 MHz): δ 7.49 (d, 1H), 7.39 (m,1H), 7.33 (d, 1H), 3.91 (m, 2H), 2.16 (s, 3H), and 1.23 ppm (t, 3H).

reactant | Oxalyl chloride | 0.082 mol, 10.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(4-chloro-2-methylphenyl)-N′-ethylthiourea | 0.075 mol, 17 g | ClC1=CC(=C(C=C1)NC(=S)NCC)C | C10H13ClN2S
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-chloro-2-methylphenyl)-3-ethyl-2-thioxo-4,5-imidazolidinedione | 13.2 g | ClC1=CC(=C(C=C1)N1C(N(C(C1=O)=O)CC)=S)C | C12H11ClN2O2S
